US04496720
1 ml of hexamethylphosphoric triamide and 1.0 g (4.15 mmoles) of 3-bromo-4-hydroxycoumarin were added to a solution of 0.91 g (5.0 mmoles) of phenylthio(trimethyl)silane in 25 ml of dry acetonitrile. After refluxing for 1 hour, the mixture was evaporated and the residue was dissolved in 125 ml of ethyl acetate. The solution obtained was washed twice with 125 ml of water and the ethyl acetate layer was dried and evaporated to dryness. The solid residue was washed with 100 ml of heptane and then with three portions of 50% ethanol, was vacuum dried at 40° C. to obtain 0.79 g (70.5% yield) of 3-phenylthio-4-hydroxycoumarin melting at 186°-189° C.

reactant | hexamethylphosphoric triamide | 1 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
reactant | 3-bromo-4-hydroxycoumarin | 4.15 mmoles, 1.0 g | BrC=1C(OC2=CC=CC=C2C1O)=O | C9H5BrO3
reactant | phenylthio(trimethyl)silane | 5.0 mmoles, 0.91 g | C1(=CC=CC=C1)S[Si](C)(C)C | C9H14SSi
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | 3-phenylthio-4-hydroxycoumarin | 0.79 g, 70.5% yield | C1(=CC=CC=C1)SC=1C(OC2=CC=CC=C2C1O)=O | C15H10O3S
